US06670360B2
(b) 2,3-Dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]-6,7-dihydropyrrolo[2,3-d]pyridazin-7-one
Hydrazine hydrate (1.92 g, 38.4 mmol) was added to a solution of methyl 3-formyl-4,5-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrole-2-carboxylate (7.96 g, 31.9 mmol) in acetic acid (38 ml) and the mixture was stirred at 90° C. for 1 hour. After this time, the reaction mixture was cooled to room temperature, poured into iced water and filtered. The crude crystals were washed with water and dissolved in a mixture of chloroform and methanol (9:1). The organic layer was separated, washed with saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was removed in vacuo and to the residue was added a mixture of toluene and hexane. The precipitate was collected by filtration to afford the desired compound (7.02 g, 95.0%) as a pale yellowish white powder.

reactant | Hydrazine hydrate | 38.4 mmol, 1.92 g | O.NN
reactant | methyl 3-formyl-4,5-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrole-2-carboxylate | 31.9 mmol, 7.96 g | C(=O)C1=C(N(C(=C1C)C)C[C@@H]1[C@H](C1)C)C(=O)OC | C14H19NO3
reactant | water | O | H2O
solvent | acetic acid | 38 ml | C(C)(=O)O | C2H4O2
product | 2,3-Dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]-6,7-dihydropyrrolo[2,3-d]pyridazin-7-one | 7.02 g, 95.0% | CC1=C(C2=C(C(NN=C2)=O)N1C[C@@H]1[C@H](C1)C)C | C13H17N3O
